US08791107B2
PREPARATION x29: 2-chloro-5-((5-cyclopropyl-1,3,4-oxadiazol-2-yl)methyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to PREPARATION x9 using 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 75 mg, 0.331 mmol) in DMSO (2 mL) followed by sodium tert-butoxide (35.0 mg, 0.364 mmol) and 2-(chloromethyl)-5-cyclopropyl-1,3,4-oxadiazole (68.2 mg, 0.430 mmol). 1H NMR (400 MHz, DMSO-d6) δ 0.92-1.00 (m, 2H), 1.07-1.16 (m, 2H), 2.14-2.25 (m, 1H), 2.92-3.03 (m, 1H), 3.03-3.11 (m, 1H), 3.11-3.20 (m, 1H), 3.34-3.51 (m, 1H), 3.53-3.58 (m, 1H), 3.59-3.72 (m, 1H), 3.85-4.00 (m, 2H), 4.20-4.29 (m, 1H), 4.53-4.63 (m, 1H), 4.79-4.88 (m, 1H), 7.56 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C15H17ClN6O2, 348.11. found 348.2.

reactant | 2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.331 mmol, 75 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
reactant | sodium tert-butoxide | 0.364 mmol, 35.0 mg | CC(C)([O-])C.[Na+]
reactant | 2-(chloromethyl)-5-cyclopropyl-1,3,4-oxadiazole | 0.430 mmol, 68.2 mg | ClCC=1OC(=NN1)C1CC1 | C6H7ClN2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 2-chloro-5-((5-cyclopropyl-1,3,4-oxadiazol-2-yl)methyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | ClC1=NC=2N3C(CN(C2C=N1)CC=1OC(=NN1)C1CC1)COCC3 | C15H17ClN6O2
